US04476321
To a mixture of 250 ml of methylene chloride, 250 ml of water and 250 ml of 30% ammonia solution is slowly added a solution of 80.3 g of crude 2-difluoromethoxyphenylsulfonyl chloride in 50 ml of methylene chloride. After the exothermic reaction had subsided, the reaction mixture is refluxed for 2 hours. The organic phase is washed with water, dried over sodium sulfate, and evaporated to dryness. Recrystallisation from methanol yielded 40.5 g of 2-difluoromethoxyphenylsulfonamide with a melting point of 128°-130° C.

reactant | water | 250 ml | O | H2O
reactant | ammonia | 250 ml | N | H3N
reactant | 2-difluoromethoxyphenylsulfonyl chloride | 80.3 g | FC(OC1=C(C=CC=C1)S(=O)(=O)Cl)F | C7H5ClF2O3S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-difluoromethoxyphenylsulfonamide | 40.5 g | FC(OC1=C(C=CC=C1)S(=O)(=O)N)F | C7H7F2NO3S
